US09108957B2
To a solution of (R)-1-phenylethanamine (364 g, 3.00 mol) in water (43.7 ml) was added 3-chloropropan-1-ol (142 g, 1.50 mol) at room temperature. The mixture was stirred at 100° C. for 5 hours. The resulting mixture was cooled to 0° C. and basified with saturated aqueous potassium carbonate. The organic layer was extracted with dichloromethane, dried over sodium sulfate, and concentrated in vacuo. The crude product was distilled under reduced pressure to remove excess (R)-1-phenylethanamine. The residue was diluted with chloroform and activated carbon was added to the solution. The mixture was refluxed for one hour and filtered through a pad of Celite. The filtrate was concentrated in vacuo to afford (R)-3-(1-phenylethylamino)propan-1-ol as pale yellow oil (224 g, 83%).

reactant | (R)-1-phenylethanamine | 3.00 mol, 364 g | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
reactant | 3-chloropropan-1-ol | 1.50 mol, 142 g | ClCCCO | C3H7ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 43.7 ml | O | H2O
product | (R)-3-(1-phenylethylamino)propan-1-ol | 224 g, 83% | C1(=CC=CC=C1)[C@@H](C)NCCCO | C11H17NO
